US05344843
A mixture of 4-[[4-(2-naphthalenyloxy)butyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.9 g) in methanol (15 mL), acetone (5 mL), and 0.5N sodium hydroxide (10 mL) was treated as in Example 19. Extraction with dichloromethane provided material which was crystallized from diethyl ether-hexane to give 0.43 g of colorless 4-[[4-(2naphthalenyloxy) butyl]oxy]-alpha-oxobenzeneacetic acid, mp 133°-135°C.

reactant | 4-[[4-(2-naphthalenyloxy)butyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.9 g | COC(C(C1=CC=C(C=C1)OCCCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C23H22O5
reactant | sodium hydroxide | 0.5N, 10 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-[[4-(2naphthalenyloxy) butyl]oxy]-alpha-oxobenzeneacetic acid | 0.43 g | C1=C(C=CC2=CC=CC=C12)OCCCCOC1=CC=C(C=C1)C(C(=O)O)=O | C22H20O5
